simulator lang=spectre
global 0

ahdl_include "./dut/first_order_sigma_delta_modulator.va"

Vin (vin 0) vsource type=pwl wave=[0 0.20 18n 0.20 18.02n 0.60 36n 0.60 36.02n 0.85 58n 0.85]
Vclk (vclk 0) vsource type=pulse val0=0 val1=0.9 delay=0.30n period=0.8n width=0.28n rise=20p fall=20p

XDUT (vin vclk bitout) first_order_sigma_delta_modulator

tran tran stop=58n maxstep=20p
save vin vclk bitout
