simulator lang=spectre
global 0
ahdl_include "window_comparator_ref.va"

Vvdd (VDD 0) vsource dc=0.9
Vvss (VSS 0) vsource dc=0
Vvin (vin 0) vsource type=pwl wave=[0 0.45 45n 0.9 90n 0.45]
IDUT (VDD VSS vin out) window_comparator_ref
tran tran stop=90n maxstep=20p errpreset=conservative
save vin out
