simulator lang=spectre
global 0

Vvdd (VDD 0) vsource dc=0.9
Vvss (VSS 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=5n rise=20p fall=20p width=10n period=20n
Vin  (vin 0) vsource type=pwl wave=[ 0 0.10 5.05n 0.10 5.15n 0.35 24n 0.35 25.05n 0.35 25.15n 0.60 44n 0.60 45.05n 0.60 45.15n 0.25 64n 0.25 65.05n 0.25 65.15n 0.70 84n 0.70 85.05n 0.70 85.15n 0.40 104n 0.40 105.05n 0.40 105.15n 0.80 140n 0.80 ]

XDUT (VDD VSS clk vin vout) sample_hold_aperture_ref

tran tran stop=140n maxstep=50p
save vin clk vout

ahdl_include "sample_hold_aperture_ref.va"
