simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vrst (rst_n 0) vsource type=pwl wave=[0 0 15n 0 16n 0.9 43.8n 0.9 44n 0 58n 0 59n 0.9 260n 0.9]
Vtrig (trig 0) vsource type=pulse val0=0 val1=0.9 delay=40n rise=200p fall=200p width=5n period=45n

XDUT (trig rst_n pulse) one_shot_timer

tran tran stop=260n maxstep=500p
save trig rst_n pulse
