simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=10n rise=200p fall=200p width=5n period=20n
Vrst (rst 0) vsource type=pwl wave=[0 0.9 15n 0.9 16n 0 180n 0]
Vmeas (meas 0) vsource type=pwl wave=[0 0.2 100n 0.2 101n 0.7 180n 0.7]
Vtarget (target 0) vsource dc=0.45

XDUT (clk rst meas target gain_ctrl) gain_trim_controller

tran tran stop=180n maxstep=500p
save clk rst meas target gain_ctrl
